US09334295B2
Step 3: Diethyl 3-bromo-7-methyl-2-naphthoylphosphonate
To a solution of oxalyl chloride (0.15 mL) in 2.5 mL of CH2Cl2 at −78° C. was added DMSO (0.23 mL). The reaction was stirred for 10 minutes after which a solution of diethyl (3-bromo-7-methyl-2-naphthyl)(hydroxy)methylphosphonate (160 mg), in 2.5 mL CH2Cl2 was added dropwise. The reaction was stirred for 1 h at −78° C. after which triethylamine (0.66 mL) was added to the mixture and the temperature was raised to rt. Water (5 mL) was added and the mixture was extracted with CH2Cl2. The organic extracts were combined, dried over Na2SO4 and evaporated to dryness to afford the titled product which was used as such in the next step.

reactant | oxalyl chloride | 0.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.23 mL | CS(=O)C | C2H6OS
reactant | diethyl (3-bromo-7-methyl-2-naphthyl)(hydroxy)methylphosphonate | 160 mg | BrC=1C(=CC2=CC(=CC=C2C1)C)C(O)P(OCC)(OCC)=O | C16H20BrO4P
reactant | triethylamine | 0.66 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 5 mL | O | H2O
product | Diethyl 3-bromo-7-methyl-2-naphthoylphosphonate | BrC=1C(=CC2=CC(=CC=C2C1)C)C(=O)P(OCC)(OCC)=O | C16H18BrO4P
